US09163042B2
2-fluoro-N-(2-methoxy-4-pyridyl)-4-(1,1,2,2,2-pentafluoroethyl)benzamide (200 mg, 0.55 mmol) in HBr in acetic acid (1.3 mL of 33% w/v, 5.49 mmol) was stirred at 100° C. for 2 hours, at this time 1 ml of HBr in acetic acid (33% w/v) was added and the mixture was stirred at 100° C. for 4 hours, then cooled to room temperature. The reaction mixture was diluted with water and a precipitate formed. The precipitate was filtered off, washed with water (2×), cold methyl-tert-butyl ether and dried under vacuum to give 2-fluoro-N-(2-oxo-1H-pyridin-4-yl)-4-(1,1,2,2,2-pentafluoroethyl)benzamide (138 mg, 72%) as a light grey solid. ESI-MS m/z calc. 350.05, found 351.3 (M+1)+; Retention time: 1.3 minutes (3 minutes run).

reactant | 2-fluoro-N-(2-methoxy-4-pyridyl)-4-(1,1,2,2,2-pentafluoroethyl)benzamide | 0.55 mmol, 200 mg | FC1=C(C(=O)NC2=CC(=NC=C2)OC)C=CC(=C1)C(C(F)(F)F)(F)F | C15H10F6N2O2
solvent | HBr | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | HBr | 1 ml | Br | BrH
solvent | acetic acid | 5.49 mmol, 1.3 mL | C(C)(=O)O | C2H4O2
product | 2-fluoro-N-(2-oxo-1H-pyridin-4-yl)-4-(1,1,2,2,2-pentafluoroethyl)benzamide | 138 mg, 72% | FC1=C(C(=O)NC2=CC(NC=C2)=O)C=CC(=C1)C(C(F)(F)F)(F)F | C14H8F6N2O2
